US08067447B2
Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-hydroxy-2,2,5-trimethylhexanoate (280 mg, 0.7 mmol) was dissolved in 10 mL MeOH and 5 mL H2SO4 and heated at 90° C. for 12 h. After 12 h, diluted with water and extracted with EtOAc×3. The organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by SiO2 chromatography eluting with 1:9 EtOAc/hexane. Obtained 220 mg (82% yield) of (E)-methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhex-3-enoate. MS found: (M+H)+=381.

reactant | Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-hydroxy-2,2,5-trimethylhexanoate | 0.7 mmol, 280 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)OC)(C)C)(CC(C)C)O | C23H27FN2O3
reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | O | H2O
product | (E)-methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhex-3-enoate | 220 mg, 82% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)/C(/C(C(=O)OC)(C)C)=C\C(C)C | C23H25FN2O2
